US05166164
Synthesis of N-[(2-chloro-5-thiazolyl)methyl]-N-methyl-N'-nitroguanidine
A mixture of 1.50 g of 2-chloro-N-methyl-5-thiazolemethanamine, 1.13 g of S-methyl-N-nitroisothiourea and 6 ml of ethanol was heated under reflux for 6 hours. After cooling, the reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (Solvent: Chloroform/Methanol=20/1) to obtain 1.00 g of the title compound as crystals. This compound is No. 6 in Table 1. m.p.: 116.0°-117.0° C.

reactant | 2-chloro-N-methyl-5-thiazolemethanamine | 1.50 g | ClC=1SC(=CN1)CNC | C5H7ClN2S
reactant | S-methyl-N-nitroisothiourea | 1.13 g | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | N-[(2-chloro-5-thiazolyl)methyl]-N-methyl-N'-nitroguanidine | 1.00 g | ClC=1SC(=CN1)CN(C(=N)N[N+](=O)[O-])C | C6H8ClN5O2S
